Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine / codeine / Dilaudid / Percocet
 
Attending: ___
 
Chief Complaint:
Abnormal MRI
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with hx of family hx cerebral aneurysm, HTN, chronic 
headache/migraine here with recent discovery of possible L 
vertebral dissection on head and neck CTA done outpt via ___. 

The patient had posterior headaches starting 2 months ago. 
Around 1 month in, in ___, she had vertigo and gait 
unsteadiness intermittently for around 3 days. Then both these 
symptoms and headache resolved. BP meds were increased and 
imaging with Head MRA/Neck MRA/H and N CTA followed that showed 
question reversal of flow in the left vertebral artery. Symptoms 
resolved. Follow up imaging of the head showed severe high-grade 
stenosis of the distal V3/proximal V4 segment of the left 
vertebral artery, likely related to vertebral artery dissection. 
She was started on ASA 81mg recently after imaging showed 
possible dissection. 

In the ED, initial VS: T 97.8 HR 89 BP 172/100 R 16 SpO2 
100%/RA. 
- Initial exam unremarkable
- Labs demonstrated WBC 14.4 but otherwise unremarkable
- OSH imaging narrowing in caliber of the L vertebral artery 
from V3 to V4 - however, it isn't entirely clear on neurology 
review that this correlates to an dissection as the L vertebral 
artery is congenitally small
- Home losartan 25 mg and amlodipine 10 mg given, with minimal 
control of blood pressure (150/110)
- Neurology evaluated the patient in the ED and agreed that 
patient does not need to be admitted for blood pressure control. 
In fact, would argue against aggressive control of BP due to 
risk of decreased perfusion if the stenosis is not longstanding. 
If the patient does get admitted, the patient needs stroke 
consults to follow. If patient is admitted, can also get MRA 
with fat sat as an inpatient. 

REVIEW OF SYSTEMS: 
[-] headache, visual changes, vertigo, decreased hearing, 
changes in taste or olfaction, weakness, paresthesias, paresis, 
numbness, abdominal pain, nausea, vomiting, diarrhea, urinary 
retention or bowel/bladder incontinence, dyspnea, chest pain, 
cough, neck stiffness

 
Past Medical History:
# Hypertension
# Migraine headaches 
# Obesity
 
Social History:
___
Family History:
cerebral aneurysm in 2 brothers, 1 sister - one died from 
aneurysmal rupture, one brother had clipping
 
Physical Exam:
ADMISSION & DISCHARGE PHYSICAL EXAMINATION:
======================================================
VITALS - pain ___, T 98.2F, HR 74, BP 130/99, R 14, SpO2 
100%/RA
GENERAL - appears well, in no apparent distress, sitting in bed 
comfortably
HEENT - sclerae anicteric, no conjunctival injection, prominent 
nares visualize nasal turbinates/mucosa (appears normal), good 
dentition
NECK - supple, no lymphadenopathy 
CARDIAC - regular rate, normal S1/S2, ? faint grade I systolic 
murmur loudest at base, without carotid radiation
PULMONARY - clear to auscultation bilaterally 
ABDOMEN - soft, non-tender, non-distended
EXTREMITIES - warm, well-perfused, no edema, 2+ DP pulses 
SKIN - without rash
NEUROLOGIC - alert, oriented x3, face symmetric, CN II-XII 
normal, DTR 2+ throughout, bilaterally, no pronator drift, gait 
unimpaired, no dysdiadochokinesia or dysmetria, negative Romberg 
sign
 
Pertinent Results:
PERTINENT LABORATORY DATA:
=======================================
___ 10:10PM BLOOD WBC-14.4*# RBC-4.78 Hgb-12.7 Hct-39.6 
MCV-83 MCH-26.6 MCHC-32.1 RDW-12.9 RDWSD-38.9 Plt ___
___ 10:10PM BLOOD Neuts-66.7 ___ Monos-5.2 Eos-1.6 
Baso-0.4 Im ___ AbsNeut-9.58* AbsLymp-3.70 AbsMono-0.75 
AbsEos-0.23 AbsBaso-0.06
___ 10:10PM BLOOD ___ PTT-35.0 ___
___ 10:10PM BLOOD Glucose-93 UreaN-9 Creat-0.8 Na-134 K-3.4 
Cl-98 HCO3-25 AnGap-14
___ 10:00PM URINE UCG-NEGATIVE

IMAGING: 
=======================================
___ BRAIN MRA W/O CONTRAST
1. No evidence of intracranial aneurysm.
2. Question reversal of flow in the left vertebral artery. 
Additional imaging is advised utilizing noncontrast neck MRA.

___ NECK MRA W/O CONTRAST
1. There is no evidence of a left subclavian steal. There is 
antegrade flow in the congenitally smaller left vertebral artery
2. Neck MRA confirms that the flow visualized in the distal most 
left vertebral artery, distal to the left ___ is retrograde.
3. The MRA findings are worrisome for V4 segment vertebral 
artery occlusion from a dissection proximal to the ___. 
A head and neck CTA is recommended. CTA would not have diagnosed 
retrograde flow in the cervical segment of the left vertebral 
artery which would have indicated subclavian steal.

___ CTA HEAD/NECK
Severe high-grade stenosis of the distal V3/proximal V4 segment 
of the left vertebral artery, likely related to vertebral artery 
dissection.  The left ___ from this segment and is 
patent.  As reported on the prior recent examinations, these 
findings are new from a ___, and neurology consultation is 
recommended.

MICROBIOLOGY:
============================================
None 
 
Brief Hospital Course:
This is a ___ year old woman with a PMH of hypertension, chronic 
migraine headaches and a family history of cerebral aneurysms, 
who presented with concern for possible left vertebral artery 
dissection on outpatient head imaging. 

# POSSIBLE VERTEBRAL ARTERY DISSECTION. Patient with history (2 
months ago) of headaches, which could have been secondary to 
hypertension, representing dissection. Patient urged to present 
to ED for neurologic evaluation based on imaging, and not due to 
symptoms. Imaging showing possible stenosis of the L vertebral 
artery, though she has been symptom free for 1 month. Blood 
pressure elevated in ED on arrival, though, patient currently 
without symptoms. Neurology consulted in ED and recommended 
outpatient follow up. Clinically, the patient's presentation is 
consistent with dissection. Appointment set with ___ Neurology 
on ___. Continued aspirin 81 mg daily. BP control detailed 
below. Patient educated on neurologic warning signs, for which 
she should urgently present to medical attention

# HYPERTENSION. BP elevated to 170s/110s in ED. Home 
antihypertensives administered and BP on arrival to floor 
130/99. Asymptomatic. Amlodipine 10 mg and losartan 25 mg daily 
continued. PCP can consider ___ at PCP appointment on 
___ if diastolic BP remains persistently elevated >90. 

# LEUKOCYTOSIS. Patient with entirely negative review of 
systems. WBC elevated to 14, though remainder of labs entirely 
normal. WBC differential normal. Patient reports that in the 
past, observed to have elevated WBC count in absence of 
infection; resolved spontaneously. In absence of localizing 
symptoms, no antibiotics were given. Follow up with PCP ___ ___ 
for repeat CBC, as scheduled. 

*** TRANSITIONAL ISSUES ***
## HYPERTENSION: consider ___ of losartan, given 
elevated diastolic BPs
## L VERTEBRAL ARTERY DISSECTION: should remain on aspirin 81 mg 
for at least 3 months, at which point, would recommend repeat 
MRI. Follow up appointment established with ___ Neurology for 
review of ___ imaging and further management. 
## LEUKOCYTOSIS: would repeat ___ at ___ office visit on ___ 
and assess for development of symptoms of infection. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. amLODIPine 10 mg PO DAILY 
3. Sumatriptan Succinate 50 mg PO ONCE:PRN migraine 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. amLODIPine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Losartan Potassium 25 mg PO DAILY 
4. Sumatriptan Succinate 50 mg PO ONCE:PRN migraine 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: left vertebral artery dissection, 
hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were referred to ___ for further evaluation because of 
findings on your head imaging. You were evaluated by our 
neurology team, and felt that there is a likely dissection 
(tear) of an artery in your head (the left vertebral artery). 
You were without symptoms.  You were continued on baby aspirin 
(81 mg per day). Your blood pressure was also found to be high. 
Your home blood pressure medicines were given, and your blood 
pressure still slightly elevated.

We have set up follow up appointments for you. They are listed 
below. Please follow up with these doctors. 

It was our pleasure caring for you. We wish you the very best. 

Sincerely,
Your care team at ___
 
Followup Instructions:
___